US05534515
7c. 1-Benzyl-7-(4-fluorobenzyloxy)-3-methoxyacetoxymethyl-2-methylpyrrolo [2,3-d]pyridazine
0.1 g (0.25 mmol) of 1-benzyl-7-(4-fluorobenzyloxy)-3-hydroxymethyl-2-methylpyrrolo [2,3-d]pyridazine, 0.164 g (0.8 mmol) of dicyclohexylcarbodiimide and 0.061 ml (0.8 mmol) of methoxyacetic acid are reacted in 5 ml of anhydrous tetrahydrofuran as described for Example 7a. Yield: 60%, m.p.: 119°-121° C.

reactant | 1-benzyl-7-(4-fluorobenzyloxy)-3-hydroxymethyl-2-methylpyrrolo [2,3-d]pyridazine | 0.25 mmol, 0.1 g | C(C1=CC=CC=C1)N1C(=C(C=2C1=C(N=NC2)OCC2=CC=C(C=C2)F)CO)C | C22H20FN3O2
reactant | dicyclohexylcarbodiimide | 0.8 mmol, 0.164 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | methoxyacetic acid | 0.8 mmol, 0.061 ml | COCC(=O)O | C3H6O3
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 1-Benzyl-7-(4-fluorobenzyloxy)-3-methoxyacetoxymethyl-2-methylpyrrolo [2,3-d]pyridazine | Yield: 60% | C(C1=CC=CC=C1)N1C(=C(C=2C1=C(N=NC2)OCC2=CC=C(C=C2)F)COC(COC)=O)C | C25H24FN3O4
